US07968570B2
A mixture of 4-(bromomethyl)benzophenone (138 mg, 0.5 mmol), isoindolone (67 mg, 0.5 mmol), cesium carbonate (407 mg, 1.25 mmol), and 18-crown-6 (13 mg, 0.05 mmol) in acetone (10 mL) was stirred heating at reflux for 3 h. Workup and silica gel column chromatography using a gradient of hexanes to 50% ethyl acetate in hexanes afforded 2-(4-benzoylbenzyl)-2,3-dihydroisoindol-1-one (149 mg, 91%). GC/MS gave: m/z (rel.int.) 327 (M+, 97), 250 (5), 222 (42), 196 (20) 165 (31), 146 (31), 133 (53), 119 (94), 105 (71), 91 (100), and 77 (98). 1H NMR (300 MHz, CDCl3): δ 4.33 (s, 2H), 4.89 (s, 2H), 7.42 (d, 2H), 7.45-7.59 (m, 6H), 7.77 (dd, 4H), 7.91 (dd, 1H).

reactant | 4-(bromomethyl)benzophenone | 0.5 mmol, 138 mg | BrCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H11BrO
reactant | isoindolone | 0.5 mmol, 67 mg | C1(N=CC2=CC=CC=C12)=O | C8H5NO
reactant | cesium carbonate | 1.25 mmol, 407 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 18-crown-6 | 0.05 mmol, 13 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-benzoylbenzyl)-2,3-dihydroisoindol-1-one | 149 mg, 91% | C(C1=CC=CC=C1)(=O)C1=CC=C(CN2C(C3=CC=CC=C3C2)=O)C=C1 | C22H17NO2
